US07253285B2
The solid 6-bromo-4-hydroxy-quinoline-3-carboxylic acid (102.59 g, 337.7 mmol) was added to hot diphenyl ether (508 g) and then the mixture was heated to reflux for 9 h to afford a light brown suspension. After cooling to room temperature, the mixture was diluted with methanol (20 mL) and diethyl ether (300 mL). Then, the solids were collected by filtration and washed with diethyl ether. After drying in air, 72.43 g (95% yield) of 6-bromo-quinolin-4-ol was isolated as a white solid: EI-HRMS m/e calcd for C9H6BrNO (M+) 222.9633, found 222.9630.

reactant | 6-bromo-4-hydroxy-quinoline-3-carboxylic acid | 337.7 mmol, 102.59 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)O | C10H6BrNO3
reactant | diphenyl ether | 508 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | methanol | 20 mL | CO | CH4O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 6-bromo-quinolin-4-ol | 72.43 g, 95% yield | BrC=1C=C2C(=CC=NC2=CC1)O | C9H6BrNO
